US05859251
Preparation of 2,7-bis-(2-thienyl)-9,9-di-(n-decyl)-9H-fluorene
2-(tributylstannyl)thiophene (5.80 ml, 0.018 mol) was added under nitrogen directly to a single-necked round bottom flask equipped with a condenser and a magnetic stir bar that had been previously dried in an oven at 110° C. The 2,7-dibromo-9,9-di-n-decyl-9H-fluorene (5.26 g, 8.70 mmol) was weighed into a beaker and dissolved in toluene (14 ml) which had been freshly distilled and degassed with nitrogen. The resulting fluorene solution was pipetted into the round bottom flask and the beaker rinsed twice with 3 ml portions of degassed toluene. Pd(PPh3)4 (0.50 g, 0.43 mmol) and PdCl2 (PPh3)2 (0.31 g, 0.44 mmol) were added to the reaction flask and the solution refluxed until it turned black. The toluene was removed under reduced pressure and the residue dissolved in hexane. The hexane solution was stirred vigorously with a 100 ml of a 2% aqueous KF solution for 3 hours. The organic layer was separated, washed twice with an equal volume of water, dried over anhydrous MgSO4, filtered and concentrated. The crude product was purified by column chromotography on silica gel using hexane as the eluent. The purified waxy solid compound (mp 59.9°-60.8° C.) was isolated in a 70% yield. Mass Spec. m/z 610 (M+), 469 (M--C10H21), Elemental Analysis: Calculated for C41H52S2 : C, 80.60, H, 8.91, S, 10.49. Found: C, 80.55, H, 8.97, S, 10.08.

reactant | 2-(tributylstannyl)thiophene | 0.018 mol, 5.80 ml | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | 2,7-dibromo-9,9-di-n-decyl-9H-fluorene | 8.70 mmol, 5.26 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCCCC)CCCCCCCCCC | C33H48Br2
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.43 mmol, 0.50 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,7-bis-(2-thienyl)-9,9-di-(n-decyl)-9H-fluorene | 70% yield | S1C(=CC=C1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C=1SC=CC1)(CCCCCCCCCC)CCCCCCCCCC | C41H54S2
